* SpiceNetList
* 
* Exported from untitled.sch at 1/16/2018 12:34 AM
* 
* EAGLE Version 8.4.3 Copyright (c) 1988-2017 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
D_D3 N_7 0 DMOD 
D_D4 0 N_1 DMOD 
D_D5 N_7 N_4 DMOD 
V_V1 N_1 N_7 DC 0V AC 220 SIN(0 220 50 0 0) 
D_D1 N_4 0 DMOD 
D_D2 N_4 N_1 DMOD 

* --------- models ---------

* model file: C:/EAGLE 8.4.3/models/DMOD.mdl
**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------
.print DC V(N_4) I(V_V1)
.print AC V(N_4) I(V_V1)
.print TRAN V(N_4) I(V_V1)
.save all
.END










